US05498748
To a suspension of 2,6-dihydroxyanthraquinone (3 g, 12.5 mmole) and anhydrous potassium carbonate (23 g) in acetone (400 ml), dimethyl sulfate (20 g, 158 mmole) was added at room temperature. The resulting mixture was reacted with stirring for 6 hours under reflux. After standing at room temperature overnight, the reaction mixture was poured into cold H2O (580 ml). The precipitate was filtered and dried. The resultant crude dark brown solid (3.1 g) was recrystallized from benzene to give 2.7 g of 2,6-dimethoxyanthraquinone as yellow-brown crystals.

reactant | 2,6-dihydroxyanthraquinone | 12.5 mmole, 3 g | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | potassium carbonate | 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 158 mmole, 20 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | H2O | 580 ml | O | H2O
reactant | acetone | 400 ml | CC(=O)C | C3H6O
product | 2,6-dimethoxyanthraquinone | 2.7 g | COC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OC)=O | C16H12O4
